US03953442
f. 5-chloro-1-(4-fluorophenyl)-3-(2-oxo-propyl)indole
A mixture of 14g of 5-chloro-3-[2(1,3-dioxolan-2-yl)propyl]-1-(4-fluorophenyl)indole, 112 ml of 96% ethyl alcohol, and 12 ml of 6N hydrochloric acid are heated to reflux for 30 minutes. The reaction mixture is concentrated then dissolved in water and extracted with ether. The organic phase is washed in water, dried, concentrated and then distilled.

reactant | 5-chloro-3-[2(1,3-dioxolan-2-yl)propyl]-1-(4-fluorophenyl)indole | ClC=1C=C2C(=CN(C2=CC1)C1=CC=C(C=C1)F)CC(C)C1OCCO1 | C20H19ClFNO2
reactant | hydrochloric acid | 6N, 12 ml | Cl | ClH
reactant | ethyl alcohol | 112 ml | C(C)O | C2H6O
product | 5-chloro-1-(4-fluorophenyl)-3-(2-oxo-propyl)indole | ClC=1C=C2C(=CN(C2=CC1)C1=CC=C(C=C1)F)CC(C)=O | C17H13ClFNO
